US08476297B2
Step 1. 2-Benzyl-1-(4-(trifluoromethyl)phenyl)-1,2-dihydroisoquinolin-3(4H)-one
4-(Trifluoromethyl)benzaldehyde (1.87 mL, 14.0 mmol) and benzylamine (1.53 mL, 14.0 mmol) were dissolved into 40 mL of DCM and 4 Å molecular sieve was added. The mixture was left under nitrogen for 3 days. Molecular sieve was removed via filtration. 25 mL of DCM was used to wash the filter cake. To the filtrate, phenylacetyl chloride (1.90 mL, 14.4 mmol) was added and the pale yellow solution was stirred for 2 h. Then trifluoromethanesulfonic acid (6.20 mL, 70.1 mmol) was added. The mixture was stirred for 1.5 h then poured into a mixture of ice (˜100 mL) and 5N sodium hydroxide (˜50 mL). The phases were separated and the aqueous phase was extracted with DCM. The combined organic phases were dried over sodium sulfate, filtered and concentrated in vacuo to afford a yellow oil. The crude product was purified by silica gel chromatography (0-30% EtOAc in hexanes) twice to afford the title compound as a light yellow semi-solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.56-7.74 (m, 4H) 7.41 (d, J=6.87 Hz, 1H) 7.13-7.33 (m, 8H) 5.80 (s, 1H) 5.30 (d, J=15.20 Hz, 1H) 3.81-4.01 (m, 2H) 3.66-3.78 (m, 1H).

reactant | 4-(Trifluoromethyl)benzaldehyde | 14.0 mmol, 1.87 mL | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | benzylamine | 14.0 mmol, 1.53 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | phenylacetyl chloride | 14.4 mmol, 1.90 mL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | trifluoromethanesulfonic acid | 70.1 mmol, 6.20 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium hydroxide | 5N, ˜50 mL | [OH-].[Na+]
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-Benzyl-1-(4-(trifluoromethyl)phenyl)-1,2-dihydroisoquinolin-3(4H)-one | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2CC1=O)C1=CC=C(C=C1)C(F)(F)F | C23H18F3NO
